US05663162
To the solution of 0.747 g of 5-[(S)-2-acetoxy-1-(trifluoroacetylamino)-ethyl]imidazo[5,1-b]thiazole in 10 ml of methanol was added 5 ml of an aqueous solution of 0.233 g of sodium hydroxide, and the mixture was then stirred at room temperature for 14 hours. The reaction mixture was concentrated to dryness under reduced pressure to give solid product containing 5-[(R)-1-amino-2-hydroxyethyl]imidazo[5,1-b]thiazole. To this product was added 50 ml of methylene chloride, and the mixture was stirred well. The mixture of 1.2 g of acetic anhydride and 2.7 g of formic acid which had been preliminarily heated to 50° C. for 10 minutes and cooled to room temperature was added to the suspension. After mixing at room temperature for 30 minutes, the mixture was cooled to room temperature. Water (5 ml) and potassium carbonate (5 g) were added, and the resulting mixture was stirred at room temperature for 30 minutes. Methanol (20 ml) was added, and the mixture was further stirred for i hour. The organic layer was separated by decantation. The aqueous layer containing crystalline products was washed five times with 20 ml of methylene chloride, and the methylene chloride layers were combined with the organic layer separated previously. The combined organic layer was dried with anhydrous potassium carbonate and concentrated to dryness, and the residue was purified on Sephadex LH20 (eluent: chloroform-methanol=1:1) to give 0.440 g of 5-((S)-1-formylamino-2-hydroxyethyl)imidazo[5,1-b]thiazole. Quantitative yield. NMR (CDCl3) δ: 3.90 (1H, dd, J=11.6 Hz, 3.6 Hz), 4.42 (1H, dd, J=11.6 Hz, 2.0 Hz), 5.45 (1H, ddd, J=9.0 Hz, 3.6 Hz, 2.0 Hz), 6.8-6.9 (1H, br), 6.83 (1H, d, J=4.3 Hz), 6.97 (1H, s), 7.76 (1H, d, J=4.3 Hz), 8.26 (1H, s). MS (EI, DMSO, 200° C.): 211 (M+).

reactant | 5-[(S)-2-acetoxy-1-(trifluoroacetylamino)-ethyl]imidazo[5,1-b]thiazole | 0.747 g | C(C)(=O)OC[C@@H](NC(C(F)(F)F)=O)C1=NC=C2SC=CN21 | C11H10F3N3O3S
reactant | sodium hydroxide | 0.233 g | [OH-].[Na+]
reactant | 5-[(R)-1-amino-2-hydroxyethyl]imidazo[5,1-b]thiazole | N[C@@H](CO)C1=NC=C2SC=CN21 | C7H9N3OS
reactant | acetic anhydride | 1.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 ml | CO | CH4O
solvent | Methanol | 20 ml | CO | CH4O
solvent | Water | 5 ml | O | H2O
solvent | formic acid | 2.7 g | C(=O)O | CH2O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 5-((S)-1-formylamino-2-hydroxyethyl)imidazo[5,1-b]thiazole | 0.440 g, Quantitative yield | C(=O)N[C@H](CO)C1=NC=C2SC=CN21 | C8H9N3O2S
